US09388161B2
A mixture of 5-cyclobutoxy-2,3-difluorobenzenamine hydrogen chloride (9.9 g, 42.1 mmol), concentrated hydrochloric acid (36 mL), chloranil (12.32 g, 49.8 mmol) in n-butanol (60 mL) stirred for 1 h at 100° C. (E)-Crotonaldehyde (19.8 mL, 239 mmol) was added dropwise, and the resulting solution stirred for 1 h at 100° C. and was then cooled to 70° C. Tetrahydrofuran (600 mL) was added, and the mixture stirred for another 30 min at 70° C. The reaction mixture was cooled to room temperature and concentrated under vacuum. The residue was poured into water (300 mL) and the pH of the mixture was adjusted to 7-8 with saturated aqueous potassium carbonate solution. The resulting mixture was extracted with ethyl acetate (3×300 mL), and the combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 25% ethyl acetate/petroleum ether) to afford 5-cyclobutoxy-7,8-difluoro-2-methylquinoline hydrochloride (6 g, 57%) as a yellow solid. MS (ESI, pos. ion) m/z 250 [M+H]+.

reactant | 5-cyclobutoxy-2,3-difluorobenzenamine hydrogen chloride | 42.1 mmol, 9.9 g | Cl.C1(CCC1)OC=1C=C(C(=C(C1)N)F)F
reactant | hydrochloric acid | 36 mL | Cl | ClH
reactant | chloranil | 49.8 mmol, 12.32 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | (E)-Crotonaldehyde | 239 mmol, 19.8 mL | C(\C=C\C)=O | C4H6O
solvent | n-butanol | 60 mL | C(CCC)O | C4H10O
solvent | Tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 5-cyclobutoxy-7,8-difluoro-2-methylquinoline hydrochloride | 6 g, 57% | Cl.C1(CCC1)OC1=C2C=CC(=NC2=C(C(=C1)F)F)C | InChI=1S/C14H13F2NO.ClH/c1-8-5-6-10-12(18-9-3-2-4-9)7-11(15)13(16)14(10)17-8;/h5-7,9H,2-4H2,1H3;1H
